**Test
.GLOBAL vss! vdd!
.TEMP 25.0
.OPTION
+    ARTIST=2
+    INGOLD=2
+    PARHIER=LOCAL
+    PSF=2
+    HIER_DELIM=0
.options accurate=1 NUMDGT=8 measdgt=5 GMINDC=1e-18 DELMAX=1n method=gear INGOLD=2 POST=1
.INCLUDE "/cae/apps/data/asap7PDK-2022/asap7PDK_r1p7/models/hspice/7nm_TT_160803.pm"
.INCLUDE "AND2.sp"
v1 vdd! 0 0.9v
v2 vss! 0 0v
* Input A (LSB) = in0
v3 in0 0 PWL( \
+ 0ns    0v   1ns    0v   1.025ns 0.9v  2ns    0.9v \
+ 2.025ns 0.9v  3ns    0.9v  3.025ns 0v  4ns    0v )

* Input B (MSB) = in1
v4 in1 0 PWL( \
+ 0ns    0v   1ns    0v   1.025ns 0v   2ns    0v \
+ 2.025ns 0.9v  3ns    0.9v  3.025ns 0.9v  4ns    0.9v )
.OP
.TRAN STEP=5p STOP=4n
.end